US06949648B2
2-[4-Oxo-1-(2-pyridinyl)-4,9-dihydro-1H-pyrazolo[3,4-b]quinolin-3-yl]acetamide
To a solution of 2-[4-oxo-1-(2-pyridinyl)-4,9-dihydro-1H-pyrazolo[3,4-b]quinolin-3-yl]acetic acid (1.60 g, 5.0 mmol) in a mixed solvent of tetrahydrofuran (100 mL) and N,N-dimethylformamide (20 mL), 1,1′-carbonyldiimidazole (0.89 g, 5.5 mmol) was added and the mixture was stirred at room temperature for 30 minutes. Subsequently, 25% aqueous ammonia solution was added to the mixture and the resulting solution was stirred at room temperature for 1 hour. The solution was poured into water, and the resulting precipitate was collected by filtration. The collected crude crystals were washed with water, and dried to give the title compound (0.94 g, 59% yield).

reactant | 2-[4-oxo-1-(2-pyridinyl)-4,9-dihydro-1H-pyrazolo[3,4-b]quinolin-3-yl]acetic acid | 5.0 mmol, 1.60 g | O=C1C2=C(NC3=CC=CC=C13)N(N=C2CC(=O)O)C2=NC=CC=C2 | C17H12N4O3
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | 1,1′-carbonyldiimidazole | 5.5 mmol, 0.89 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-[4-Oxo-1-(2-pyridinyl)-4,9-dihydro-1H-pyrazolo[3,4-b]quinolin-3-yl]acetamide | 0.94 g, 59% yield | O=C1C2=C(NC3=CC=CC=C13)N(N=C2CC(=O)N)C2=NC=CC=C2 | C17H13N5O2
